US08492401B2
1 N NaOH (5.4 mL) was added to a solution of ethyl 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylate (1.50 g, 3.6 mmol) in methanol (10 mL) and tetrahydrofuran (10 mL). The reaction mixture was stirred at room temperature for 16 h then concentrated in vacuo. H2O was added and the mixture was washed with EtOAC. The pH of the aqueous layer was adjusted to 5 by the addition of 1N HCl and the resulting ppt was collected by filtration, washed with H2O, and dried to give 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylic acid as a white solid (0.9 g, 64% yield).

reactant | NaOH | 1 N, 5.4 mL | [OH-].[Na+]
reactant | ethyl 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylate | 3.6 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C22H29N3O4S
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-2-phenylthiazole-4-carboxylic acid | 0.9 g, 64% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C20H25N3O4S
